Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Sulfa (Sulfonamide Antibiotics) / Lisinopril / Reglan
 
Attending: ___.
 
Chief Complaint:
Dizziness/lightheadedness
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ is an ___ year old woman with a history of CLL in 
remission, CVA incidentally found on neuroimaging, CAD s/p CABG, 
HTN, dementia, HFpEF who presents to the ___ today with a chief 
complaint of lightheadedness and gait instability. Per the 
patient and her son, Ms. ___ was otherwise in her usual state 
of health until this morning, when she stood up from a chair and 
immediately felt very lightheaded, as if she were about to 
faint. She did not black out and was able to sit down on her 
chair, after which she felt slightly better, but not all that 
much. She called her son after these symptoms persisted, who was 
concerned and decided to bring her to the ___ for further 
evaluation. Of note, the patient sustained a fall on ___ when 
she slipped while walking outside with her son. She did not feel 
lightheaded prior to this fall. She apparently fell on her 
bottom without head strike. She was immediately able to stand 
back up without issues and was able to walk home, though she 
endorsed mild back pain today. Additionally, Ms. ___ underwent 
a ___ scan ___ for evaluation of a 40 pound weight loss 
which incidentally found a chronic right temporoparietal stroke. 
Her PCP obtained an MRI in ___ to evaluate both for the PET 
finding as well as memory difficulty which revealed multiple 
strokes. No further workup for etiology was done at this time. 
She also has a complex cystic lesion in the left adnexa which 
appears to be consistent with a cystic ovarian neoplasm. Denies 
fever/chills, n/v/d, dysuria, loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, vertigo, tinnitus or hearing 
difficulty. Denies difficulties producing or comprehending 
speech. Denies focal weakness,numbness, parasthesiae. No bowel 
or bladder incontinence or retention. 

In the ___, initial vital signs were: 97.7 61 154/130 18 100% RA 
- Exam notable for: ***see neuro note for very thorough 
evaluation thinks its 1960s, as at baseline nonfocal neuro exam 
though unsteady on transfer RRR CTAB abd soft 

- Labs were notable for: 140 / ___ AGap=20 
------------- 4.___ / 0.8 wbc 7.9 hgb 11.0 plat 183 ___: 10.7 
PTT: 27.1 INR: 1.0 Urinalysis: +leuk/nitr, WBC 24 Urine culture 
pending

- Studies performed include CT Head W/O Contrast [299] -- Full 
Report No acute intracranial process. Chronic right temporal 
parietal and corona radiata infarcts, unchanged from MRI on 
___ 13:01 Chest (Pa & Lat) [4] -- Full Report 
AP upright and lateral views of the chest provided. Midline 
sternotomy wires mediastinal clips are again noted. Clips are 
noted in the right upper quadrant. Cardiomediastinal silhouette 
appears unchanged. There is mild hilar congestion without overt 
edema. No focal consolidation concerning for pneumonia. No large 
effusion or pneumothorax. Bony structures appear intact. 

- Patient was given: Ceftriaxone Upon arrival to the floor, the 
patient is comfortable, pleasant and accompanied by her two 
sons. They emphasize that her balance has been worse yesterday 
than her previous "slightly unsteady" baseline and more dizzy. 
At one point lowered her self to the ground w/o head strike or 
LOC. Review of Systems: (+) per HPI 
 
Past Medical History:
- Coronary artery disease s/p CABG in ___  
 - Chronic lymphocytic leukemia  
 - GERD  
 - Hypertension  
 - Dementia  
 - Mitral regurgitation with mild pulmonary hypertension  
 - Thyroid nodule s/p FNA in ___ nodules stable in ___  
 - Stroke  
 - Shingles  
 - C. Dif enterocolitis  
 - Anxiety  
 - Prediabetes, A1C on ___ was 6.3%  
 - Heart failure with preserved ejection fraction  
 - Parkinsonism ___ Reglan  
 Surgical Hx:  
 - Open cholecystectomy  
 - Open appendectomy  
 - Supracervical hysterectomy (?open)  
 - CABG  
 - Vein stripping  

 
Social History:
___
Family History:
Mother with lung cancer and heart disease. Denies  
 h/o breast, ovarian, uterine, cervical, or colon cancers. 
 
Physical Exam:
ADMISSION EXAM
==============
 Vitals: 98.0 58 140/55 12 96%RA  
 General: Awake, pleasant, cooperative, NAD. AOx1  
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in  
 oropharynx  
 Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity.  
 Mild cervical muscle spasm  
 Pulmonary: Lungs CTA bilaterally without R/R/W  
 Cardiac: RRR, nl. S1S2, no M/R/G noted  
 Abdomen: soft, suprapubic tenderness, normoactive bowel sounds, 
 
 no masses or organomegaly noted.  
 Extremities: No C/C/E bilaterally, 2+ radial, DP pulses  
 bilaterally.  
 Skin: no rashes or lesions noted.  
 *Please see excellent neurology note for examination  
 Labs, Microbiology: reviewed, please see attached  

DISCHARGE EXAM
==============
98.6, 152/59, 63, 20, 94% on RA
General: Pleasant elderly female in NAD  
HEENT: PERRRL, EOMI.  Sclerae anicteric, conjunctiva not pale.  
OP clear with MMM.
Lymph: No cervical, submandibular, supraclavicular LAD.  
CV: s1 s2, RRR, no MRG.
Lungs: CTABL, good inspiratory effort.  
Abdomen: Normoactive BS throughout.  Soft, non-distended, 
non-tender.  No HSM.  
Ext: WWP, 1+ pulses throughout, no ___.  
Neuro: AOx2.  CN2-12 intact.  Strength ___ and symmetrical, 
sensation intact to light touch throughout.  No dysmetria.  
Skin: Scattered seborrheic keratoses over neck, back, and 
forehead. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:46PM BLOOD WBC-7.9 RBC-3.79* Hgb-11.0* Hct-34.0 
MCV-90 MCH-29.0 MCHC-32.4 RDW-13.6 RDWSD-44.6 Plt ___
___ 12:46PM BLOOD Neuts-82.7* Lymphs-8.6* Monos-6.5 
Eos-0.8* Baso-0.8 Im ___ AbsNeut-6.54* AbsLymp-0.68* 
AbsMono-0.51 AbsEos-0.06 AbsBaso-0.06
___ 12:46PM BLOOD ___ PTT-27.1 ___
___ 12:46PM BLOOD Plt ___
___ 12:46PM BLOOD Glucose-170* UreaN-15 Creat-0.8 Na-140 
K-4.4 Cl-103 HCO3-21* AnGap-20
___ 02:21PM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:21PM URINE Blood-SM  Nitrite-POS Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 02:21PM URINE RBC-4* WBC-24* Bacteri-MANY Yeast-NONE 
Epi-1 TransE-<1

PERTINENT LABS
==============
___ 06:30AM BLOOD %HbA1c-7.2* eAG-160*
___ 06:30AM BLOOD Triglyc-171* HDL-31 CHOL/HD-3.5 
LDLcalc-44
___ 06:30AM BLOOD TSH-2.3

MICRO
=====
___ 2:21 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 6:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

STUDIES/IMAGING
===============
CXR ___
FINDINGS:   
AP upright and lateral views of the chest provided.  Midline 
sternotomy wires mediastinal clips are again noted.  Clips are 
noted in the right upper quadrant.  Cardiomediastinal silhouette 
appears unchanged.  There is mild hilar congestion without overt 
edema.  No focal consolidation concerning for pneumonia.  No 
large effusion or pneumothorax.  Bony structures appear intact.  

IMPRESSION:    
As above. 

CT HEAD WO CONTRAST ___
FINDINGS:    
There is no acute hemorrhage, edema, or mass effect.  There is 
no CT evidence for an acute major vascular territorial 
infarction.  Large right inferior parietal/ occipital/ posterior 
temporal chronic infarct with encephalomalacia and foci of 
gyriform hyperdensity indicating pseudolaminar necrosis, and a 
small right corona radiata chronic infarct with 
encephalomalacia, are again noted.  Ventricles and sulci are 
enlarged due to global age-related parenchymal volume loss, with 
superimposed ex vacuo enlargement of the frontal horn, atrium 
and temporal horn of the right lateral ventricle. 
No osseous abnormalities seen.  There is minimal mucosal 
thickening in the 
ethmoid air cells.  Mastoid air cells are well aerated.  There 
is evidence of bilateral cataract surgery.   
IMPRESSION: 
1. No evidence for acute intracranial abnormalities. 
2. Large chronic right inferior parietal parietal/ occipital/ 
posterior 
temporal temporal infarct and small chronic right corona radiata 
infarcts are again demonstrated.

DISCHARGE LABS
==============
___ 07:10AM BLOOD WBC-4.0 RBC-3.31* Hgb-9.6* Hct-30.3* 
MCV-92 MCH-29.0 MCHC-31.7* RDW-13.8 RDWSD-46.2 Plt ___
___ 10:11AM BLOOD Glucose-170* UreaN-11 Creat-0.7 Na-138 
K-3.8 Cl-101 HCO3-24 AnGap-17
 
Brief Hospital Course:
This is an ___ year old female with past medical history of CLL, 
dementia, CVA, CAD, admitted ___ with episode of 
presyncope secondary to orthostasis, also found to have acute 
bacterial UTI, volume repleted and status post completion of 
antibiotic course, with resolution of symptoms, able to be 
discharged home with 24 hour care

# Presyncope secondary to Orthostatic Hypotension - Patient 
presented with episode of presyncope on standing.  On 
admission, workup was notable for orthostasis (123/50s -> 
81/50s upon standing, HR 66 -> 75), as well as UTI (as below).  
ECG at baseline.  CT head in ___ was NEG for any acute 
intracranial abnormalities, showed known R temporoparietal/R 
corona radiata infarcts.  Patient was seen by neurology who 
felt that no acute neurologic processes were ongoing, but 
recommended outpatient neurologic follow-up for history of 
prior strokes.  Patient was given IV fluids due to suspected 
dehydration.  UTI treated (as below).  Patient was monitored on 
telemetry without tachyarrhythmias, although notable for 
borderline sinus bradycardia (although able to augment heart 
rate with exertion), prompting decrease of Metoprolol from 25mg 
daily to 12.5mg daily.  Patient subsequently seen by ___ and 
able to ambulate without symptoms.  Of note, subsequently 
patient still noted to have mild orthostasis by vitals signs 
and without symptoms--this was felt to relate to mild 
dysautonomia related to her age and dementia.  Discussed 
behavioral interventions with family and patient to help with 
minimizing symptoms.  
   
# Acute bacterial UTI - In setting of above symptoms, patient 
was found to have a positive UA and urine culture with Ecoli.  
Patient was initially treated with CTX 1g IV q24h, then 
transitioned to cefpodoxime 200mg po BID following culture 
return with pan-sensitive Ecoli.  

# Vascular dementia secondary to history of stroke - Patient 
with history of identification of prior strokes as part of 
outpatient dementia workup.  As above, patient was seen by 
neurology during this admission, who recommended 3 month 
neuro/stroke follow-up and consideration of outpatient MRA head 
and neck without contrast to evaluate for vessel stenosis, and 
TTE to evaluate for thrombus. Continued Rivastigmine and 
Citalopram while inpatient.  OT assessed patient, recommended 
increased supervision at home to ensure safety.  Patient's sons 
are aware, have agreed to discharge home with ___ discuss 
hiring in home ___ moving forward. 

# Thrombocytopenia - Platelets noted to be 135k during this 
admission; suspected to be secondary to acute illness (as 
above).  Would consider recheck as outpatient 

# Ovarian Mass - Patient with known ovarian mass, previously 
followed by ___ gyn-onc.  She had missed recent outpatient 
follow-up.  Team arranged for GYN-onc follow-up with Dr. ___.
  
----------------  
CHRONIC ISSUES:  
---------------- 
# Chronic lymphocytic leukemia - WBC 7.9.  Status post 
fludarabine, Cytoxan and Rituxan therapy in ___, completing a 
total of four cycles.  Follows with Dr. ___  

# Chronic Diastolic CHF - - Fractionated Metoprolol while 
inpatient, decreased succinate to 12.5mg qd on day of discharge. 
 

# Coronary artery disease s/p CABG in ___ - Continued ASA, 
atorva, metop  

# HLD - Continued Atorvastatin 80 mg PO QPM  

# HTN - On fosinopril at home, was on Lisinopril while 
inpatient, resumed home fosinopril at discharge

# GERD - Continued Omeprazole 40 mg PO BID   

# Vit D Def - Continued Vitamin D ___ UNIT PO DAILY 
  

TRANSITIONAL ISSUES
===================
- Patient found to have asymptomatic orthostasis during this 
admission;  would continue to educate caregivers regarding 
behavioral management--rising slowly from lying to standing
- Patient noted to be thrombocytopenic to ~135, most likely in 
setting of acute infection, should continue to monitored as 
outpatient, esp given hx of CLL 
- OT assessed patient, recommended increased supervision at 
home to maintain safety, patient discharged with ___ 
- Patient discharged on cefpodoxime to complete a 3-day course 
of antibiotics
- There needs to be further code status discussion between 
patient, sons, and PCP.  Patient's son stated that his mother 
previously stated wish to have 'no major life saving 
interventions,' though he needed to discuss the matter further 
with his brother.
- Scheduled for outpatient neuro/stroke follow-up with above 
recommended outpatient workup 

=======================================
#Code Status: Full (but sons to discuss) 
#Emergency Contact/HCP: sons ___ - ___ ___ - 
___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. fosinopril 10 mg oral DAILY 
2. Lidocaine 5% Patch 1 PTCH TD DAILY:PRN pain 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. rivastigmine tartrate 3 mg oral BID 
6. Omeprazole 40 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. Citalopram 40 mg PO DAILY 
9. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 1 Dose 
Last dose ___ 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Citalopram 40 mg PO DAILY  
6.  fosinopril 10 mg oral DAILY  
7.  Lidocaine 5% Patch 1 PTCH TD DAILY:PRN pain  
8.  Omeprazole 40 mg PO BID  
9.  rivastigmine tartrate 3 mg oral BID  
10.  Vitamin D ___ UNIT PO DAILY  
11.Rolling Walker
Orthostatic Hypotension I95.1
Prognosis Good
Length of need: 13mos

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Presyncope secondary to Orthostatic Hypotension   
# Ecoli Acute bacterial UTI 
# Vascular Dementia secondary to history of stroke 
# Thrombocytopenia 
# Ovarian Mass
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were feeling dizzy 
and lightheaded at home.  The most likely cause of your symptoms 
is an abrupt change in blood pressure when you go from lying to 
standing (orthostatic hypotension).  In order to ___ minimize 
your symptoms, it is important that you maintain good fluid 
intake, sit on the edge of bed for several minutes prior to 
standing up in the morning, and wear compression stockings.  The 
dose for your beta blocker (Metoprolol) was also decreased to 
12.5mg daily as a slower heart rate may worsen your symptoms.   

Your heart was monitored throughout your admission and there 
were no episodes of abnormal heart rates/rhythms.  The 
neurologists examined you and felt that your symptoms were not 
consistent with a stroke.  It is important, however, that you 
follow-up with your new neurologist as scheduled below given 
your history of prior stroke.  

You were found to have a urinary tract infection, which you have 
also had in the past.  You were treated with intravenous 
antibiotics. Please take 1 additional dose of cefpodoxime to 
complete your course. 

It was a pleasure taking care of you!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___